US06225311B1
To a solution of 12.18 g (32.48 mmol) of product of ({[4-(2-butynyloxy)phenyl]sulfonyl}amino)(4hydroxyphenyl)acetic acid in 5 ml of DMF at room temperature was added 165.65 g (1.95 mol) of NaHCO3, 17.4 g (90.9 mmol) of EDC, 10.53 g (77.95 mmol) of HOBT and 61.2 g (487.2 mmol) of O-t-butylhydroxylamine hydrochloride. The reaction was stirred at 50° C. for 6 h, then at room temperature overnight. DMF was removed. The resulting light brown solid was diluted with ethyl acetate/water, extracted with ethyl acetate, washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude material was washed with 3-5 ml dichloromethane, The product, ′N-(tert-butoxy)-2-({[4-(2-butynyloxy)phenyl]-sulfonyl}amino)-2-(4hydroxyphenyl)acetamide, (12 g, 83%) was obtained as a light yellow solid. Electrospray Mass Spec 447.4 (M+H)+

reactant | ({[4-(2-butynyloxy)phenyl]sulfonyl}amino)(4hydroxyphenyl)acetic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)C1=CC=C(C=C1)O | C18H17NO6S
reactant | NaHCO3 | 1.95 mol, 165.65 g | C(=O)(O)[O-].[Na+]
reactant | EDC | 90.9 mmol, 17.4 g
reactant | HOBT | 77.95 mmol, 10.53 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | O-t-butylhydroxylamine hydrochloride | 487.2 mmol, 61.2 g | Cl.C(C)(C)(C)ON
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(tert-butoxy)-2-({[4-(2-butynyloxy)phenyl]-sulfonyl}amino)-2-(4hydroxyphenyl)acetamide | 12 g, 83% | C(C)(C)(C)ONC(C(C1=CC=C(C=C1)O)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C22H26N2O6S
